Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
shortness of breath, pain in right lower extremity
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
History of Present Illness (mostly from prior note and OMR, 
including sign out from MICU):  
Mr. ___ is a ___ year old diabetic with CHF ___ in ___ 
who presented with SOB on ___. SOB was worse over the last 3 
days prior to admission, present both at rest and with exertion. 
It began subacutely. ___ sleeps on 2 pillows chronically, 
recently has had to sleep more upright. ___ does endorse PND. ___ 
says ___ has been taking all of his medications at home, though 
___ is not sure of all of the names. ___ does not watch his sodium 
intake carefully, but says that his diet hasn't really changed 
recently. Denies any CP or palpitations. Pt also notes RLE 
erythema with some associated pain over the last several days 
prior to admission. ___ has had a mild productive cough with 
green phlegm and rhinitis no fevers/chills/sweats.  
.  
In the ER, vitals were 97.4 83 157/100 22 93% (?on RA). 
Admission labs notable for BNP of 2595. EKG showed RBBB, new 
from ___. CXR poor quality but without clear infiltrate. RLE 
lenis were negative for clot. ER did not want to do CTA given 
report of shellfish allergy and felt VQ would not be feasible 
given habitus. ___ was given 1g vancomycin for ?RLE cellulitis 
and levofloxacin 750mg. Also received carvedilol 12.5mg, lasix 
80mg PO, KCL 20meq, nitro SL, and furosemide 40mg IV. ER course 
notable for hypertension up to 201/128. Vitals prior to transfer 
afebrile 83 177/117 20 92% on 3L  

 
Past Medical History:
* CHF/dilated cardiomyopathy with EF ___ on last TTE ___. 
Trivial MR, ___ TR and moderate pulmonary hypertension  
* Type 2 DM,  
* Hypercholesterolemia  
* Morbid obesity  
* Crack abuse  
* OSA (new diagnosis)  

 
Social History:
___
Family History:
Family History: +HTN, DM  

 
Physical Exam:
Vitals 97.2 81 177/106 22 94% on 4L  
General Morbidly obese pleasant man, mildly tachypneic but no 
acute distress.  
HEENT Anicteric, conjunctiva pink, MMM  
Neck Large neck, JVP appears to be at least 10cm  
Pulm Lung exam very challenging due to his habitus but no rales 
appreciated  
CV Regular S1 S2 no m/r/g appreciated  
Abd Large pannus, +bowel sounds, nontender  
Extrem 2+ bilateral edema, hand-sized area of erythema R shin 
with warmth slightly tender  
Neuro Alert awake, not somnolent, moving all extremities  

 
Pertinent Results:
ADMISSION LABS:
.
CBC 6.8>46.4<179 N 70 no bands  
Chem ___ gap=7  
CK 183 MB 3 Tropn 0.01  
INR 1.2, PTT 28  
.  
EKG SR @87, left axis with LAFB, RBBB with secondary ST/T 
changes, qtc 461. ___.  
compared to ___ EKG the RBBB is new.  

___ 06:25PM   cTropnT-0.01
___ 06:25PM   CK(CPK)-183
.
DISCHARGE LABS:
.
___ 05:39AM BLOOD WBC-4.2 RBC-4.61 Hgb-13.0* Hct-40.8 
MCV-89 MCH-28.2 MCHC-31.9 RDW-14.5 Plt ___
___ 06:38AM BLOOD Glucose-149* UreaN-10 Creat-0.8 Na-137 
K-4.4 Cl-96 HCO3-36* AnGap-9
___ 05:41AM BLOOD ALT-12 AST-19 AlkPhos-70 TotBili-0.4
___ 06:16AM BLOOD proBNP-___*
___ 05:39AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.0
___ 10:15AM BLOOD HIV Ab-NEGATIVE
___ 06:58AM BLOOD INSULIN-LIKE GROWTH FACTOR-1- within 
normal limits
.
MICROBIOLOGY:
___ WOUND CULTURE (Final ___ - from RLE draining 
cellulitis
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   0.5 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S
.
IMAGING/STUDIES:
TTE ___: The left atrium is markedly dilated. There is 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity is moderately dilated. There is severe global 
left ventricular hypokinesis (LVEF = 25 %). No masses or thrombi 
are seen in the left ventricle. There is no ventricular septal 
defect. The right ventricular cavity is dilated with moderate 
global free wall hypokinesis. The ascending aorta is mildly 
dilated. The aortic valve is not well seen. No mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 
.
CXR for 57cm RUE PICC placement ___: There has been interval 
placement of a right-sided PICC, which on initial film 
demonstrated coiling in the supraclavicular region and 
terminated within the mid SVC. Subsequently, this was advanced 
with tip at the cavoatrial region, in good position. 
There is severely limited inspiration. Cardiopericardial 
silhouette is not
well assessed. Focal airspace consolidation is evident. No 
evidence of
pneumothorax.
.
Bilateral ___ Ultrasound ___: 
IMPRESSION: 
1. No evidence of DVT. 
2. Prominent inguinal lymph nodes, likely hyperplastic. 
.
Inpatient Bedside Sleep study ___: 
RESPIRATORY EVENTS: ETCO2 measurements varied between 41-47cm
throughout the course of the night while on PAP. NV mask alone
was used and no EERS was added. BIPAP SV Auto pressures of EEP 
10
PS min 5 PS max 10 to BIPAP SV Auto EPAP 12 PS min 7 PS max 13
with 4L O2 to 6L O2 was titrated throught the course of the
night. The entire night was spent in the supine position. In
supine NREM BIPAP Auto SV pressures of EPAP 12 PS min 5 PS max 
10
with 4L O2 resulted in sats greater than 91% with occasional 
flow
limitation and occasional microarousals. In supine REM higher
pressures were clearly needed. In supine REM BIPAP SV auto
pressures of EPAP 12 PS min 7 PS max 13 and 6L O2 resulted in
sats 88% and occasional respiratory events but while in NREM 
sats
stayed at 95% or greater. There was no evidence of periodic
breathing with the addition of NV mask.
ASSESSMENT: The patient must avoid supine sleep. BIPAP Auto SV
EPAP 12 PS min 7 PS max of 13 with 6L O2 results in very good
control of SDB in supine NREM and acceptable control in supine
REM. There was no evidence of periodic breathing, albeit with 
the
aid of a NV mask, on tonights PSG. Continued efforts must be 
made
towards weight loss. A formal outpatient split night study will
be performed to identify optimal settings upon discharge from 
the
hospital.
ABGS DURING SLEEP STUDY:
___ 01:39AM BLOOD Type-ART pO2-63* pCO2-66* pH-7.38 
calTCO2-41* Base XS-10
___ 05:44AM BLOOD Type-ART pO2-78* pCO2-66* pH-7.38 
calTCO2-41* Base XS-___yspnea / Hypoxia / CAP - Etiology presumed to be 
multifactorial including an acute decompensation of his chronic 
heart failure, a possible viral URI, underlying pulmonary HTN in 
setting of uncontrolled OSA, as well as compressive atelectasis 
secondary to body habitus. CXR on admission was without evidence 
of pneumonia; noted to have some hilar fullness in a very 
limited study due to body habitus. LENIs negative for DVT, BNP 
2595. (no prior). Cardiac enzymes remained negative, however 
Repeat ECHO showed persistant EF 25% (unchanged from prior). PE 
was also considered but felt to be less likely.  Unfortunately, 
patient was unable to fit in CT scanner to better evaluate for 
the possibility of PE or a primary pulmonary airspace disease.  
However, given persistently hazy appearance of lung fields and 
hypoxia, patient was treated for community acquired pneumonia 
with 7 days of Levofloxacin. Patient was diuresed and 
medications for heart failure optimized. Additionally, ___ was 
treated with aggressive pulmonary toilet including incentive 
spirometry, physical and occupational therapy.  At the time of 
discharge ___ continued to require supplemental oxygen; SaO2 low 
___ on 3L nasal cannula.
.
# Obstructive Sleep Apnea: After admission to the medicine 
floor, the patient had witnessed apneic events, loud snoring and 
gasping/choking episodes with significant daytime fatigue.  His 
nocturnal PaCO2 was 79, and ___ was noted to have severe
obstructive apneas with desats down to 50%.  Pt was transferred 
to MICU for initiation of BIPAP, which ___ tolerated poorly at 
first due to mask discomfort. Patient required pressures of up 
to ___, however still noted to have desaturations to ___ and 
even 70's when laying flat.  Patient was transferred to the 
floor after initiation of Bipap, but continued to have 
difficulty tolerating secondary to mask discomfort.  On ___ 
___ underwent bedside inpatient sleep study and was provided with 
___ large NV with large head gear.  This machine is the 
property of the patient, and should remain with him at all 
times.  The patient tolerated Bipap titration with the 
better-fitting mask and was continued on BIPAP with good effect 
on the following settings: Auto SV EPAP 12 PS min 7 PS max of 13 
with 6L O2.  At discharge, ___ was given an appointment to follow 
up in sleep disorders clinic as an outpatient.  ___ will need a 
formal sleep study as an outpatient following pulmonary rehab.
.  
# CHRONIC SYSTOLIC HEART FAILURE: Patient with dilated 
cardiomyopathy, possibly secondary to chronic prior crack 
cocaine use, last EF 25%. Patient initially persistantly 
hypertensive, started on maximum medical therapy with 
Lisinopril, and beta blocker, however remained hypertensive. 
Started combination Hydralazine / Isosorbide per A-Heft trial, 
with significant improvement in status. Patient was also 
diuresed agressively, with 4.5L negative length of stay in MICU. 
Patient tolerated this regimen well on the floor, with 
significant improvement in blood pressure control.  
Additionally, the patient was continued on furosemide and 
started on spironolactone for improved diuresis during this 
admission.
.
# HTN, benign: As noted above, patient with difficult to control 
blood pressure, that has improved significantly on aggressive 
regimen with lisinopril, labetolol, hydralazine, and isosorbide. 
 This regimen should be continued at discharge.
.
# Cellulitis, LLE: On admission, noted to have increasing 
warmth/erythema on right lower extremity. Patient started on 
Augmentin intially however with progression of lesion requiring 
initiation of Vancomycin.  Small collection was noted over the 
medial aspect of the right leg and ultrasound was obtained to 
evaluate for potential abscess formation, however none was 
found. Patient was continued on Vancomycin from 
___ to ___.  On ___, wound culture grew MSSA and the patient 
was changed to Nafcillin.  ___ should continue for a total 14 day 
course to end on ___.  ___ was evaluated by wound care 
specialists, who recommended the following treatment:
Cleanse openings in the skin with wound cleanser then pat dry, 
apply thin layer of aloe vesta moisturizer to leg, cover weeping 
area with softsorb and wrap with conform, change daily and prn 
strike-through, Elevate legs whenever possible, Place spiral ace 
wrap to right leg from above toe to below knee and remove at bed 
time.  Additionally, patientt may benefit from ___ clinic 
evaluation for venous stasis
disease as outpatient.
.  
# Intertriginous Tinea:  Patient was started on miconazole 
powder BID to inguinal area on ___.  This should continue 
for a minimun of 2 weeks, and may be continued thereafter for 
persistent pruritus.

# Morbid obesity: Patient was seen by nutrition and provided 
with significant diet and weight loss education during this 
admission.  She was also seen by physical therapy who 
recommended continued ambulation with supervision and oxygen 
supplementation at least three times per day.
.  
# DM, type 2 poorly controlled: Patient was poorly controlled on 
metformin as an outpatient.  During this hospitalization, ___ was 
well controlled on Lantus 14 units at bedtime and a Humalog 
sliding scale.  This should be continued at discharge.  Patient 
also continued on ASA 81 mg daily.
.  
# Hyperlipidemia: Continued on home statin. 
.  
# FEN: Low Na/diabetic diet, 1500 ml fluid restriction  
.
# ACCESS: Rt PICC line in place

FULL CODE

 
Medications on Admission:
Aspirin 325mg daily  
Carvedilol 12.5mg BID  
Simvastatin 80mg daily  
Lasix 80mg bid  
Lisinopril 40mg daily  
Metformin 500 mg BID  
Kcl 40meq BID  
Colace 100mg BID  
Multivitamin daily  
Miralax prn  
Viagra prn  
Ibuprofen BID  

 
Discharge Medications:
1. Nafcillin 2 gram Recon Soln Sig: One (1)  Intravenous every 
six (6) hours for 2 days: To end on ___.  
2. Labetalol 200 mg Tablet Sig: Five (5) Tablet PO Q 8H (Every 8 
Hours).  
3. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
PICC, non-heparin dependent: Flush with 10 mL Normal Saline 
daily and PRN per lumen. 
5. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
6. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO BID (2 times a 
day).  
7. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day): Please discontinue when patient 
more ambulatory.  
10. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) for 2 weeks: Continue twice daily for two weeks. 
 ___ continue thereafter if patient continues to have rash in 
inguinal region.  
11. Isosorbide Dinitrate 20 mg Tablet Sig: Two (2) Tablet PO TID 
(3 times a day).  
12. Hydralazine 50 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
13. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for cough.  
15. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q4H (every 4 
hours) as needed for cough.  
16. Dextromethorphan-Guaifenesin ___ mg/5 mL Liquid Sig: ___ 
MLs PO Q6H (every 6 hours) as needed for cough.  
17. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for shortness of breath or wheezing.  
18. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
19. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for dry nose.  
20. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
21. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
22. Lantus 100 unit/mL Solution Sig: Fourteen (14) units 
Subcutaneous at bedtime.  
23. Humalog 100 unit/mL Solution Sig: as directed  Subcutaneous 
four times a day: Please dispense as directed by sliding scale.  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
RLE cellulitis
Obstructive and central sleep apnea
Hypertension
Cardiomyopathy with Low EF
Tinea corporis infection

 
Discharge Condition:
 
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital for shortness of breath and 
pain in your right leg.  The pain in your right leg was thought 
to be due to infection, and you were treated with antibiotics.  
Your shortness of breath was felt to be multifactorial; a 
combination of excess fluid, infection and obstructive sleep 
apnea.  You were started on a Bipap machine during sleep and 
initiated on oxygen therapy to help with your shortness of 
breath.
.
We made the following changes to your home medications:
- STOP Carvedilol and START Labetolol; continue at 1000 mg three 
times daily
- START hydralazine and Isosorbide Dinitrate for your high blood 
pressure
- Decrease furosemide to 60 mg twice daily
- Start spironolactone; this is a medication to help with your 
heart failure
- Start Bipap at night for sleep apnea; please keep your Bipap 
machine with you from now on.  This machine was extremely 
expensive and it is unlikely your health insurance will replace 
it if lost or stolen.
- START Miconazole powder and apply to the groin twice daily for 
at least 2 weeks
- START IV Nafcillin for your leg infection; this should 
continue for another two weeks
- STOP Metformin and start insulin; 12 units Lantus in the 
evening and Humalog insulin as directed by sliding scale four 
times daily.
 
Followup Instructions:
___